US07135475B2
A solution of (4-acetylamino-phenyl)-acetic acid (348 mg, 1.65 mmol) in N,N-dimethylformamide (2.5 mL) was treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (316 mg, 1.80 mmol). The resulting mixture was stirred at 25° C. for 20 min. At this time, the reaction was treated with 5,6-diamino-1-butyl-1H-pyrimidine-2,4-dione (300 mg, 1.5 mmol) followed by 4-dimethylaminopyridine (37 mg, 0.3 mmol). The reaction was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. The residue was diluted with water (5.0 mL) and was brought to pH=5 with a 1N aqueous hydrochloric acid solution. The resulting solid was collected by filtration, washed with water, and dried in vacuo to afford 2-(4-acetylamino-phenyl)-N-(6-amino-1-butyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-acetamide (330 mg, 59%) as a light tan solid: LR-MS for C18H23N5O4 (M+H)+ at m/z=374

reactant | (4-acetylamino-phenyl)-acetic acid | 1.65 mmol, 348 mg | C(C)(=O)NC1=CC=C(C=C1)CC(=O)O | C10H11NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.80 mmol, 316 mg | Cl.CN(CCCN=C=NCC)C
reactant | 5,6-diamino-1-butyl-1H-pyrimidine-2,4-dione | 1.5 mmol, 300 mg | NC=1C(NC(N(C1N)CCCC)=O)=O | C8H14N4O2
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.3 mmol, 37 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(4-acetylamino-phenyl)-N-(6-amino-1-butyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-acetamide | 330 mg, 59% | C(C)(=O)NC1=CC=C(C=C1)CC(=O)NC=1C(NC(N(C1N)CCCC)=O)=O | C18H23N5O4
